US04548944
5-Guanidino-3-(3-nitrophenyl)1,2,4-oxadiazole
7.3 gm of guanidine hydrochloride were added in portions to a solution of 1.8 gm of sodium in 100 ml of ethanol. After 30 minutes of stirring, 22.5 gm of 3-(3-nitro-phenyl)-5-trichloromethyl-1,2,4-oxadiazole were added. The solid which separated out overnight was filtered off and dried, yielding 15.2 gm of the title compound, m.p. 290°-291° C.

reactant | guanidine hydrochloride | 7.3 gm | Cl.NC(=N)N
reactant | sodium | 1.8 gm | [Na] | Na
reactant | 3-(3-nitro-phenyl)-5-trichloromethyl-1,2,4-oxadiazole | 22.5 gm | [N+](=O)([O-])C=1C=C(C=CC1)C1=NOC(=N1)C(Cl)(Cl)Cl | C9H4Cl3N3O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-Guanidino-3-(3-nitrophenyl)1,2,4-oxadiazole | 15.2 gm | N(C(=N)N)C1=NC(=NO1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H8N6O3
